US09340546B2
A microwave vial was charged with 1-(3-amino-4-pyridyl)piperidine-4-carboxylic acid (125 mg, 0.197 mmol), TBTU (200 mg, 0.62 mmol) and N-methylmethanamine (3.5 mL, 2M in MeOH). The tube was sealed and the mixture stirred for 3 h at 120° C. The crude was redissolved in MeOH and loaded into a MeOH pre-washed SCX column, rinsed with MeOH and the product was released with methanolic ammonia. The ammonia extracts were concentrated under reduced pressure to yield 1-(3-aminopyridin-4-yl)-N,N-dimethylpiperidine-4-carboxamide. MS (ES+) 249.2.

reactant | 1-(3-amino-4-pyridyl)piperidine-4-carboxylic acid | 0.197 mmol, 125 mg | NC=1C=NC=CC1N1CCC(CC1)C(=O)O | C11H15N3O2
reactant | TBTU | 0.62 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmethanamine | 2M, 3.5 mL | CNC | C2H7N
solvent | MeOH | CO | CH4O
product | 1-(3-aminopyridin-4-yl)-N,N-dimethylpiperidine-4-carboxamide | NC=1C=NC=CC1N1CCC(CC1)C(=O)N(C)C | C13H20N4O
